US04615966
To 5-bromo-N-acetylindoline 122.86 g (0.51 mol) cooled in an ice bath was added chlorosulfonic acid, 116.52 g (2.6 moles) very cautiously. The mixture was stirred for about 30 minutes at 0° C. and then allowed to warm to room temperature. The mixture was then heated slowly to about 70°-90° C. overnight. After cooling, the cold solution was slowly added to ice and the solids collected by suction filtration, washed several times with water and allowed to dry overnight. The product was recrystallized from chloroform to give 72.5 g (42% by weight yield) of 5-bromo-6-chlorosulfonyl-N-acetylindoline.

reactant | 5-bromo-N-acetylindoline | 0.51 mol, 122.86 g | BrC=1C=C2CCN(C2=CC1)C(C)=O | C10H10BrNO
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | 5-bromo-6-chlorosulfonyl-N-acetylindoline | 72.5 g | BrC=1C=C2CCN(C2=CC1S(=O)(=O)Cl)C(C)=O | C10H9BrClNO3S
